US04906643
A dry mixture of 1.8 parts of 2-chloro-1H-benzimidazole, 4.28 parts of cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide and 0.1 parts of potassium iodide was pulverized. A few drops of N,N-dimethylacetamide were added and the whole was stirred for 4 hours at 120° C. The reaction mixture was taken up in a mixture of water and dichloromethane. The whole was treated with ammonium hydroxide. The organic layer was separated, washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of acetonitrile and 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.06 parts (18.6%) of cis-4-amino-N-[1-[2-(1H-benzimidazol-2-ylamino)ethyl]-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide; mp. 205.8° C. (compound 28).

reactant | 2-chloro-1H-benzimidazole | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCN)OC)C=C1Cl)OC | C16H25ClN4O3
reactant | potassium iodide | [I-].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
catalyst | N,N-dimethylacetamide | A few drops | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | cis-4-amino-N-[1-[2-(1H-benzimidazol-2-ylamino)ethyl]-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | 18.6% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCNC2=NC3=C(N2)C=CC=C3)OC)C=C1Cl)OC | C23H29ClN6O3
